US08614206B2
To a solution of tert-butyl 5-fluoroazepan-4-ylcarbamate (310 mg, 1.34 mmol) in EtOH (4 mL) was added DIPEA (1 ml, 5.7 mmol) and 5-chloro-1-methyl-4-nitro-1H-pyrazole (216 mg, 1.34 mmol). The reaction mixture was heated at 130° C. in a microwave for 8 hr. The solvent was removed under reduced pressure and the residue was purified via silica gel column chromatography (30-40% EtOAc/isohexane) to give the two trans (anti) isomers, tert-butyl 5-fluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate as a yellow glass (65 mg) contaminated with some of the cis (syn) isomer.

reactant | tert-butyl 5-fluoroazepan-4-ylcarbamate | 1.34 mmol, 310 mg | FC1C(CCNCC1)NC(OC(C)(C)C)=O | C11H21FN2O2
reactant | DIPEA | 5.7 mmol, 1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | 1.34 mmol, 216 mg | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
solvent | EtOH | 4 mL | CCO | C2H6O
product | tert-butyl 5-fluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate | 65 mg | FC1C(CCN(CC1)C1=C(C=NN1C)[N+](=O)[O-])NC(OC(C)(C)C)=O | C15H24FN5O4
